US06225480B1
A solution of 5,6,7,8-tetrahydro-3-methyl-1-naphthyl acetate (11.00 g) and NaOH (6.50 g) in a mixture of water (50 ml) and MeOH (150 ml) was refluxed for 5 hours. MeOH was removed under reduced pressure to give a residue. AcOEt was added to the residue and c-HCl was added dropwise under ice-cooling. The organic phase was washed with brine and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to give 5,6,7,8-tetrahydro-3-methyl-1-naphthol as a solid (8.19 g).

reactant | 5,6,7,8-tetrahydro-3-methyl-1-naphthyl acetate | 11.00 g | C(C)(=O)OC1=CC(=CC=2CCCCC12)C | C13H16O2
reactant | NaOH | 6.50 g | [OH-].[Na+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | MeOH | 150 ml | CO | CH4O
product | 5,6,7,8-tetrahydro-3-methyl-1-naphthol | 8.19 g | CC=1C=C(C=2CCCCC2C1)O | C11H14O
